US08791132B2
To a degassed stirred solution of 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (100 mg, 0.29 mmol), 1-methyl-1H-pyrazole-5-boronic acid pinacol ester (81 mg, 0.576 mmol) and potassium carbonate (120 mg, 0.87 mmol) in 1,2-dimethoxyethane (4 mL) and water (2 mL) was added Pd(PPh3)4 (17 mg, 0.0147 mmol). The reaction mixture was stirred at 90° C. for 45 min. The solvent was removed under reduced pressure, residue diluted with water (20 mL) and extracted with EtOAc (50 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by reverse HPLC to yield 2,8-dimethyl-5-(2-(1-methyl-1H-pyrazol-5-yl)cyclopent-1-enyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole. 1H NMR (CDCl3, freebase) δ (ppm): 7.32 (s, 1H), 7.18 (s, 1H), 7.0 (d, 1H), 6.9 (d, 1H), 6.01 (s, 1H), 3.6 (s, 2H), 3.2 (s, 3H), 3.0 (m, 4H), 2.7 (m, 4H), 2.52 (s, 3H), 2.4 (s, 3H), 2.2 (m, 2H).

reactant | 5-(2-bromocyclopent-1-enyl)-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.29 mmol, 100 mg | BrC1=C(CCC1)N1C2=C(C=3C=C(C=CC13)C)CN(CC2)C | C18H21BrN2
reactant | 1-methyl-1H-pyrazole-5-boronic acid pinacol ester | 0.576 mmol, 81 mg | CN1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
reactant | potassium carbonate | 0.87 mmol, 120 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 4 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.0147 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,8-dimethyl-5-(2-(1-methyl-1H-pyrazol-5-yl)cyclopent-1-enyl)-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CN1CC2=C(N(C=3C=CC(=CC23)C)C2=C(CCC2)C2=CC=NN2C)CC1 | C22H26N4
